US06479507B2
Synthesis of the 7-(4-Fluorophenyl)-6-[2-(3-hydroxypropylamino)pyridin-4-yl]-5H-pyrrolo[2,3-b]pyrazine hydrochloride salt
7-(4-Fluorophenyl)-6-[2-(3-hydroxypropylamino)pyridin-4-yl]-5H-pyrrolo-[2,3-b]pyrazine trifluoroacetate salt (0.018 g, 0.05 mmol) was treated with HCl/diethyl ether (1.0 ml of a 1.0 M solution) to give a solid. The ethereal layer was decanted off and the resulting solid was washed twice with ether. Excess ether was carefully blown off with nitrogen gas and the resulting yellow solid was dried in vacuo to 7-(4-fluorophenyl)-6-[2-(3-hydroxypropylamino)pyridin-4-yl]-5H-pyrrolo[2,3-b]pyrazine hydrochloride salt (0.019 g).

reactant | 7-(4-Fluorophenyl)-6-[2-(3-hydroxypropylamino)pyridin-4-yl]-5H-pyrrolo-[2,3-b]pyrazine trifluoroacetate salt | 0.05 mmol, 0.018 g | FC(C(=O)O)(F)F.FC1=CC=C(C=C1)C1=C(NC2=NC=CN=C21)C2=CC(=NC=C2)NCCCO
reactant | HCl diethyl ether | Cl.C(C)OCC
product | 7-(4-Fluorophenyl)-6-[2-(3-hydroxypropylamino)pyridin-4-yl]-5H-pyrrolo[2,3-b]pyrazine hydrochloride salt | Cl.FC1=CC=C(C=C1)C1=C(NC2=NC=CN=C21)C2=CC(=NC=C2)NCCCO | InChI=1S/C20H18FN5O.ClH/c21-15-4-2-13(3-5-15)17-18(26-20-19(17)24-9-10-25-20)14-6-8-23-16(12-14)22-7-1-11-27;/h2-6,8-10,12,27H,1,7,11H2,(H,22,23)(H,25,26);1H
